US05872232
2'-O-Nonyl-N6 -benzoyladenosine
2'-O-Nonyladenosine was treated with benzoyl chloride in a manner similar to the procedure of B. L. Gaffney and R. A. Jones, Tetrahedron Lett., Vol. 23, p. 2257 (1982). After chromatography on silica gel (ethyl acetate-methanol), the title compound was obtained. Analysis for: C26H35N5O5. Calculated: C, 62.75; H, 7.09; N, 17.07. Found: C, 62.73; H, 14.07; N, 13.87.

reactant | 2'-O-Nonyladenosine | C(CCCCCCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(N)=NC=NC12 | C19H31N5O4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2'-O-Nonyl-N6 -benzoyladenosine | C(CCCCCCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12 | C26H35N5O5
